US05905084
3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine-5-carboxylic acid dihydrochloride
A solution of 0.125 gm (0.46 mMol) methyl 3-(1-methyl-piperidin-4-yl)pyrrolo[3,2-b]pyridine-5-carboxylate in 30 mL 1N hydrochloric acid was heated at reflux for 18 hours. The reaction mixture was concentrated under reduced pressure to provide 0.10 gm (87%) title compound.

reactant | methyl 3-(1-methyl-piperidin-4-yl)pyrrolo[3,2-b]pyridine-5-carboxylate | 0.46 mMol, 0.125 gm | CN1CCC(CC1)C=1C=NC=2C1NC(=CC2)C(=O)OC | C15H19N3O2
reactant | hydrochloric acid | 1N, 30 mL | Cl | ClH
product | 3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine-5-carboxylic acid dihydrochloride | 0.10 gm, 87% | Cl.Cl.CN1CCC(CC1)C=1C=NC=2C1NC(=CC2)C(=O)O | InChI=1S/C14H17N3O2.2ClH/c1-17-6-4-9(5-7-17)10-8-15-11-2-3-12(14(18)19)16-13(10)11;;/h2-3,8-9,16H,4-7H2,1H3,(H,18,19);2*1H
